US07632857B2
4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide
Procedure Z′: To a stirring solution of 4-bromophenylmethyl amide (11.0 mmol, CAS # 27466-83-7), bis-(pinacolato)diboron (1.1 mmol) and potassium acetate (3.0 mmol) in dimethyl sulfoxide (0.10M), add palladium(II) dichloride (dppf) complex with dichloromethane (1:1) (0.08 mmol). Heat reaction to 100° C. for 1.5 hours. After this time, cool the reaction to room temperature and add (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone (the product from preparation 14) (11.0 mmol), 2M aqueous sodium carbonate (3.0 mmol) and palladium(II) chloride (dppf) complex with dichloromethane (1:1) (0.08 mmol). Heat reaction to 100° C. for 18 hours. After this time, remove the heat and wash the reaction with water while extracting with 10% isopropanol/dichloromethane. Dry the organics with sodium sulfate, filter and concentrate in vacuo. Purify the title compound via radial chromatography eluting with 2M ammonia in methanol and dichloromethane. MS (n/e): 392.3 (M+1)

reactant | 4-bromophenylmethyl amide | 11.0 mmol | BrC1=CC=C(C=C1)C[NH-]
reactant | bis-(pinacolato)diboron | 1.1 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.0 mmol | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.08 mmol | ClCCl | CH2Cl2
reactant | (4-bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
reactant | sodium carbonate | 3.0 mmol, 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.08 mmol | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 0.10M | CS(=O)C | C2H6OS
product | 4′-(2-(S)-Pyrrolidin-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-4-carboxylic acid methylamide | CNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C24H29N3O2
